US07332508B2
1-Cyclopropyl-4-[5-(3-chloro-4-methoxyphenyl)[1,2,4]oxadiazol-3-yl]piperidine
The title compound was prepared by a similar procedure to that described in Example 35a, starting from 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine and 3-chloro-4-methoxybenzoyl chloride.

reactant | 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine | C1(CC1)N1CCC(CC1)C(=N)NO | C9H17N3O
reactant | 3-chloro-4-methoxybenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1OC | C8H6Cl2O2
product | 1-Cyclopropyl-4-[5-(3-chloro-4-methoxyphenyl)[1,2,4]oxadiazol-3-yl]piperidine | C1(CC1)N1CCC(CC1)C1=NOC(=N1)C1=CC(=C(C=C1)OC)Cl | C17H20ClN3O2
